Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, constipaiton, aspiration
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a severely demented ___ year old woman who 
presented from nursing home with consitpation, nausea, vomiting, 
and presumed aspiration. She is alert at baseline but not 
communicative.  Per her home med list with multiple laxatives 
likely has constipation at baseline. A KUB at her SNF showed LBO 
with dilated colon loops and VS on transfer were notable for T 
of 99.2, BP 116/70 and sattign 94% on 2L. Labs at ___ notable 
for leukocytosis of 19.8.
 
On arrival to the ED, VS were T 97.8 HR 93 SBP 147, RR 18 O2sat 
99% NRB. Labs notable for leukocytosis of 16.5 with left shift, 
elevated BUN:Cr (28:1.0), and lactate of 2.3. CXR with clear 
lungs and trace retrocardiact opacity and ? atelectasis or 
pneumonitis. Rectal exam was guaiac negative. IV fluids were 
given and patient kept NPO.
 
Patient had one large BM in the ED and another large BM on the 
floor. She has been weaned to 3L NC and satting mid ___. She is 
getting maintenance fluids given n/v low PO intake and labs 
concerning for pre-renal ___. 
 
ROS not possible given severe dementia. Discussed with HCP 
___ (___) who confirmed that this is the 
patients baseline. She also mentioned that they were recently 
discussing (prior to this episode) the possibility of putting 
the patient on hospice this ___. 
 

 
Past Medical History:
- severe dementia (unclear baseline),  
- hypothyroidism,  
- depression,  
- ? hypertension  

 
Social History:
___
Family History:
Unable to obtain.
 
Physical Exam:
Admission:
VITALS: 98.3 140/74 84 18 97%/2L  
GENERAL: PERRL. EOMI. AAO x 1, but sleeping prior to exam, 
comfortably so.  
NECK: no carotid bruits, JVD  
LUNGS: Decreased breath sounds at bases, mild inspiratory 
wheezing on left side.  
HEART: RR with II/VI early systolic murmur at LUSB  
ABDOMEN: without scars, soft, non-tender, not distended, 
hyperactive bowel sounds.  
NEUROLOGIC: A+OX1  
Extremities No peripheral edema. ___ on right heel/foot.  
 
Discharge:
VS - 98.___.9 70 (70s-80s) 159/78 (150s-180s/70s-80s) ___ 
99%RA
GENERAL - non-toxic appearing elderly woman lying in bed staring 
at celeing
HEENT - NC/AT, PERRLA, sclerae anicteric, MMM, OP clear, 
appeared to have full eye movements, though would not follow 
commands
NECK - supple, no JVD
LUNGS - CTA bilat anteriorly, resp unlabored, no accessory 
muscle use 
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft, nondistended, no obvious tenderness this 
AM, no masses or HSM, no rebound/guarding, guaiac negative in ED 

EXTREMITIES - WWP, no c/c/e
SKIN - no rashes or lesions  
NEURO - awake, oriented x 0. Will not respond to questions. 
Intermittent laughing, but no appropriate responses. Patient 
would not follow commands.
 
Pertinent Results:
___ 09:30PM BLOOD WBC-16.5* RBC-4.71 Hgb-14.0 Hct-43.3 
MCV-92 MCH-29.8 MCHC-32.4 RDW-13.9 Plt ___
___ 09:30PM BLOOD Neuts-87.9* Lymphs-6.4* Monos-5.2 Eos-0.3 
Baso-0.2
___ 06:40AM BLOOD ___ PTT-26.2 ___
___ 09:30PM BLOOD Glucose-198* UreaN-28* Creat-1.0 Na-142 
K-4.3 Cl-103 HCO3-27 AnGap-16
___ 09:30PM BLOOD Albumin-3.4* Calcium-8.8 Phos-2.8 Mg-2.6
___ 09:30PM BLOOD TSH-0.64
___ 06:40AM BLOOD T4-7.8 T3-57* Free T4-1.5
___ 09:30PM BLOOD ALT-18 AST-31 AlkPhos-77 TotBili-0.6
___ 09:30PM BLOOD Lipase-12
___ 09:30PM BLOOD cTropnT-<0.01
___ 09:32PM BLOOD Type-ART pO2-134* pCO2-38 pH-7.50* 
calTCO2-31* Base XS-6
___ 10:27PM BLOOD Lactate-2.3*
 
Discharge:
___ 06:15AM BLOOD WBC-9.4 RBC-3.91* Hgb-11.8* Hct-36.4 
MCV-93 MCH-30.1 MCHC-32.3 RDW-13.6 Plt ___
___ 01:35PM BLOOD Glucose-111* UreaN-10 Creat-0.7 Na-138 
K-3.5 Cl-106 HCO3-23 AnGap-13
___ 01:35PM BLOOD Calcium-7.5* Phos-2.5* Mg-2.1
___ 02:17PM BLOOD Lactate-1.1
 
Studies: 
___ CXR:
1.  No evidence of pneumonia.  Probable left basilar 
atelectasis.  Aspiration is a consideration. 
2.  Prominent air-filled bowel loops. 
 
___ KUB:
Findings concerning for evolving or partial bowel obstruction 
versus ileus.  Likely distal fecal impaction. 
 
___ KUB: 
Improving bowel obstruction status post large bowel movement.
 
Micro: 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with severe dementia who 
presented from nursing home with constipation, nausea, vomiting, 
and presumed aspiration event. 
 
# Pseudo-obstruction: Patient with nausea, vomiting and 
constipation which is likely ___ colonic pseudo-obstruction 
secondary to underlying dementia. Patient was on heavy bowel 
regimen at baseline indicating that this is likely acute on 
chronic constipation.  Unclear what initiated worsening 
pseudoobstruction, but resulted in nausea, vomiting and presumed 
aspiration (below). Her labs were notable for elevated lactate 
on admission that resolved by discharge. She also note to have 
___ with elevated BUN/Cr (below).  KUB revealed markedly 
distended loops of small and large bowel, but no transition 
point or evidence of mechanical obstruction.  She was made NPO 
and started on IV fluids on arrival to the hospital. She 
proceeded to have multiple large bowel movements in the ED and 
on the floor with resolution of her abdominal distension and 
abdominal pain. Repeat KUB revealed resolution of obstruction 
consistent with physical exam findings. 
   
# Aspiration pneumonitis: Patient presented with likely 
aspiration event given nausea and vomiting from obstruction 
(above) along with decreased oxygen saturations in the ED. She 
was initially on a nonrebreather, but was weaned to 2L NC with 
saturations in the high ___.  She had leukocytosis with left 
shift, but remained afebrile without obvious consolidation on 
CXR and was read as atelectasis vs aspiration. No antibiotics 
were given as she did not have clinical or radiologic signs of 
pneumonia.  On the floor, respiratory function and leukocytosis 
improved and she remained afebrile. Speech and swallow saw 
patient who deemed that she was at a high risk for aspiration so 
was kept NPO. Patient's legal guardian (___) was 
contacted to discuss the risks of aspiration if the patient was 
allowed to eat for comfort.  She agreed that it would be in the 
best interests of the patient's quality of life to avoid feeding 
tube and continue with thick liquids, despite the risk of 
aspiration which could ultimately lead to pneumonia or even 
death. Patient was sent back to nursing home with instructions 
to continue honey thick liquids to minimize aspiration risk, but 
with the understanding that aspiration may be inevitable.  
  
# ___: Patient with Cr of 1 on admission and BUN of 28 which 
likely represents pre-renal etiology of ___.  Her baseline is 
unclear, but she resolved to a Cr 0.6 by discharge follwoing IV 
fluid repletion.  Lactate was initially elevated on admission, 
which is consistent with this, and resolved to 1.1 by discharge.
 
# Dementia: Discussed mental status with legal guardian ___ 
___ (___) and patient is non-communicative at 
baseline.  There was discussion prior to this episode of 
possible hospice care for patient, but this was not going to be 
done until ___. On further discussion with ___, she 
will try to initiate discussion of transition to hospice care 
shortly after return to nursing home. 
 
# Hypothyroid: Patient was euthyroid on exam and was continued 
on home levothyroxine. TSH was normal as were T4 and free T4.
   
# PPX: heparin SQ, bowel regimen  
 
# CODE STATUS: DNR/DNI per legal guardian
 
# EMERGENCY CONTACT: legal guardian - ___ ___
 
# Transitional issues:
- Spoke with ___ on phone multiple times throughout 
admission and she would like to initiate discussion of 
transition to hospice care.  She would like to have the hospice 
team evaluate Ms. ___ at her nursing home. 
- Patient can eat honey thick liquids for comfort with the 
understanding that she may aspirate 
- Elevated blood pressures in the hospital, but did not initiate 
anti-hypertensive regimen in order to simplify medicine regimen 
after discussion with legal guardian

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Family/Caregiver nursing home.
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Polyethylene Glycol 17 g PO DAILY 
3. Acetaminophen 325-650 mg PO Q6H:PRN pain 
do not exceed 3 g in 24 hrs 
4. Milk of Magnesia 30 mL PO Frequency is Unknown 
5. Bisacodyl 10 mg PR HS:PRN constipation 

 
Discharge Medications:
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Acetaminophen 325-650 mg PO Q6H:PRN pain 
do not exceed 3 g in 24 hrs 
3. Bisacodyl 10 mg PO DAILY 
4. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
5. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Ileus 
Acute renal failure
Aspiration Pneumonitis

Secondary Diagnosis 
Demetia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Ms. ___

___ was a pleasure participating in your care while you were 
admitted to ___. As you know 
you were admitted because you were having abdominal pain, nausea 
and vomiting. There was some concern there might be a blockage 
in your intestine but an Xray did not show this. You had several 
bowel movements and your distension improved. There was some 
inflammation in your lung caused by choking when you were 
vomiting. However this was not felt to represent a pneumonia and 
therefore you were not given antibiotics.  In speaking with your 
guardian the decision was made to allow you to eat through there 
is some risk you may aspirate again. 
 
Followup Instructions:
___